US06908916B2
Tertrapropylammonium perruthenate (0.75 gm, 0.05 equiv) was added to a stirred suspension of 1,4-bis-(toluene-4-sulfonyl)-[1,4]diazepan-6-ol (13 gm, 30.7 mmoles, Saari et al., J. Org. Chem., 1971, 36, 1711), N-methylmorpholine N-oxide (5.38 gm, 1.5 equiv) and crushed 4 A molecular sieves (20 gm) in dry DCM (100 mL). After 1.5 hr, this was poured onto a short column of silica gel and eluted with a mixture of 10% EtOAc in DCM to give 1,4-bis-(toluene-4-sulfonyl)-[1,4]diazepan-6-one (8.9 gm, 60%) as a white solid: 1H NMR (CDCl3) δ 2.44 (s, 6H), 3.71 (s, 4H), 3.91 (s, 4H), 7.32 (d, 4H, J=8.1 Hz), 7.65 (d, 4H, J=8.1 Hz). A solution of this ketone (8.9 gm, 21.1 mmole) in dry DCM was cooled in an acetone/dry ice bath and DAST (8.4 mL, 3 equiv) was added over 5 min. The reaction was allowed to warm to RT and, after 20 hr, it was cooled in an ice bath and water was added dropwise to decompose the excess reagent. The pH of the aqueous phase was adjusted to 10 with aq. NaOH solution and additional DCM (300 mL) was added. The organic phase was separated, dried (Na2SO4) and the solvent removed. The residue was crystallized from acetone/water to give 6,6-difluoro-1,4-bis-(toluene-4-sulfonyl)-[1,4]diazepane (6.47 gm, 69%) as fluffy white crystals: 1H NMR (CDCl3) δ 2.44 (s, 6H), 3.41 (s, 4H), 3.68 (t, 4H, J=12.3 Hz), 7.33 (d, 4H, J=8.0 Hz), 7.64 (d, 4H, J=8.0 Hz). A solution of the difluoride (3.41 gm, 7.75 mmole) and phenol (2.9 gm, 4 equiv) in a 30% solution of HBr in HOAc (50 mL) was heated at 60° C. for 6 hr. The reaction was concentrated and the residue was suspended in ethanol to deposit the bis-HBr salt of 6,6-difluoro-[1,4]diazepane as a tan solid (1.82 gm, 79%). This salt (600 mg, 2.04 mmole) was suspended in MeOH (10 mL) and aq. NaOH (0.41 mL, 10 N, 2 equiv) was added with stirring. The resulting solution was eluted through a Varian Mega Bond Elut SCX cartridge followed by 10 mL of MeOH. 6,6-Difluoro-[1,4]diazepane was eluted off the SCX cartridge with 50 mL of 2 N solution of NH3 in MeOH. Removal of the solvents left it as an oil (211 mg, 76%): 1H NMR (CDCl3) δ 2.93 (s, 4H), 3.21 (t, 4H, J=13.9 Hz).

reactant | 1,4-bis-(toluene-4-sulfonyl)-[1,4]diazepan-6-ol | 30.7 mmoles, 13 gm | C1(=CC=C(C=C1)S(=O)(=O)N1CCN(CC(C1)O)S(=O)(=O)C1=CC=C(C=C1)C)C | C19H24N2O5S2
reactant | N-methylmorpholine N-oxide | 5.38 gm, 1.5 equiv | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | perruthenate | 0.75 gm, 0.05 equiv | [Ru](=O)(=O)(=O)[O-]
product | 1,4-bis-(toluene-4-sulfonyl)-[1,4]diazepan-6-one | 8.9 gm, 60% | C1(=CC=C(C=C1)S(=O)(=O)N1CCN(CC(C1)=O)S(=O)(=O)C1=CC=C(C=C1)C)C | C19H22N2O5S2
